US04762844
Preparation of 2,5-difluoro-4-methyl-benzoyl chloride
250 ml of thionyl chloride are taken and 120 g of 2,5-difluoro-4-methyl-benzoic acid are introduced in portions at room temperature, with brisk evolution of gas. When the evolution of gas has subsided, the mixture is heated slowly to the reflux temperature and stirred until the evolution of gas has ended. The excess thionyl chloride is distilled off, the reaction product is coarsely distilled over and the distillate is fractionated on a small column. Yield: 97 g (72.9% of theory) of 2,5-difluoro-4-methylbenzoyl chloride of boiling point b.p.: 103°/20 mbar, nD20 : 1.5232.

reactant | 2,5-difluoro-4-methyl-benzoic acid | 120 g | FC1=C(C(=O)O)C=C(C(=C1)C)F | C8H6F2O2
reactant | thionyl chloride | 250 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,5-difluoro-4-methyl-benzoyl chloride | FC1=C(C(=O)Cl)C=C(C(=C1)C)F | C8H5ClF2O
